US08431575B2
To a stirred solution of 1-methyl-piperidin-4-ol (0.50 mmol, 0.06 g) in THF (1 mL) at room temperature was added sodium hydride (60% dispersion in mineral oil) (0.75 mmol, 0.03 g) and continued stirring for 15 min. The reaction mixture was cooled to 0° C. using an ice bath. To this was added a solution of 6-chloro-4-(4-cyclohexyloxy-phenyl)-3-cyclopropyl-pyridazine (0.25 mmol, 0.082 g) in THF (0.5 mL). After completion of addition, the reaction mixture was warmed to 50° C. and stirred for 2 hours. After cooling the reaction to room temperature, the reaction was quenched with water (1 mL) and extracted with ethyl acetate (1×5 mL). The ethyl acetate layer was washed with brine (2 mL), dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified on 4 g SiO2 cartridge 4-6% (2N NH3 in MeOH) in DCM to give 4-(4-cyclohexyloxy-phenyl)-3-cyclopropyl-6-(1-methyl-piperidin-4-yloxy)-pyridazine. The neutral amine was treated with 2N HCl in diethyl ether (0.5 mL) and DCM (0.5 mL). The volatiles were removed under reduced pressure and the salt was triturated with diethyl ether and filtered to provide the title compound (0.030 g). LCMS: m/z 409 [M+1]. 1H NMR (400 MHz, CD3OD) δ 7.48-7.58 (2H, m), 7.30-7.48 (1H, m), 7.04-7.14 (2H, m), 5.30-5.54 (1H, m), 4.37-4.48 (1H, m), 3.60-3.70 (1H, m), 3.14-3.51 (3H, m), 2.93 (3H, s), 2.54 (1H, d), 2.41 (1H, d), 2.16-2.31 (2H, m), 1.96-2.10 (3H, m), 1.76-1.89 (2H, m), 1.27-1.67 (6H, m), 1.09-1.24 (4H, m).

reactant | 1-methyl-piperidin-4-ol | 0.50 mmol, 0.06 g | CN1CCC(CC1)O | C6H13NO
reactant | sodium hydride | 0.75 mmol, 0.03 g | [H-].[Na+]
reactant | 6-chloro-4-(4-cyclohexyloxy-phenyl)-3-cyclopropyl-pyridazine | 0.25 mmol, 0.082 g | ClC1=CC(=C(N=N1)C1CC1)C1=CC=C(C=C1)OC1CCCCC1 | C19H21ClN2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 4-(4-cyclohexyloxy-phenyl)-3-cyclopropyl-6-(1-methyl-piperidin-4-yloxy)-pyridazine | C1(CCCCC1)OC1=CC=C(C=C1)C1=C(N=NC(=C1)OC1CCN(CC1)C)C1CC1 | C25H33N3O2
